US03966780
1.6 g of 3,7-dimethyl-2,4-dodecadienoic acid is dissolved in 20 ml of absolute diethyl ether and 0.55 ml of pyridine. The resulting mixture is added dropwise over a period of about 10 minutes to 0.57 ml of thionyl chloride at a temperature between 0°C. and +10°C. Subsequently the mixture is stirred for 1 hour at room temperature (22°C.), then decanted off, and the residue is washed with absolute diethyl ether. The solution is evaporated to dryness under anhydrous conditions. The residue is dissolved in 10 ml of absolute diethyl ether. The ethereal solution is added dropwise at a temperature between 0°C. and +10°C., over a period of about 20 minutes, to a solution consisting of 0.56 ml of propargyl alcohol and 0.55 ml of pyridine in 10 ml of absolute ether. After stirring overnight (16 hours) at room temperature (22°C.) the mixture is diluted with diethyl ether, washed with 1-N hydrochloric acid, saturated aqueous sodium bicarbonate solution and finally with aqueous sodium chloride solution. After drying, the ethereal phase is evaporated. The crude product is chromatographed on a 30-fold amount of Kieselgel, using hexane/diethyl ether (19:1 parts by volume) as the eluant. There is obtained 3,7-dimethyl-2,4-dodecadienoic acid propargyl ester as a colorless oil; boiling point 105°C/0.05 mmHg (bulb tube); n25 25= 1.4951.

reactant | 3,7-dimethyl-2,4-dodecadienoic acid | 1.6 g | CC(=CC(=O)O)C=CCC(CCCCC)C | C14H24O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.55 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 3,7-dimethyl-2,4-dodecadienoic acid propargyl ester | C(C#C)OC(C=C(C=CCC(CCCCC)C)C)=O | C17H26O2
